US05324804
a) Preparation of 3,4-dihydroxystyrene
200 g (1.11 mol) of caffeic acid are dissolved in 1.2 l of dimethyl formamide dissolved and the solution is stirred for 3 h at 150° C. After cooling to room temperature, the solution is poured on to 3 kg of ice, saturated with sodium chloride and extracted twice with ethyl acetate. The organic phase is washed with 2% NaHCO3 solution and then with water, dried over Na2SO4 and concentrated by evaporation, giving 120 g (80% ) of a highly viscous liquid which can be recrystallised from toluene. The substance is, however, sufficiently pure and can be further processed without recrystallisation.

reactant | caffeic acid | 1.11 mol, 200 g | C(\C=C\C1=CC(O)=C(O)C=C1)(=O)O | C9H8O4
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethyl formamide | 1.2 l | CN(C=O)C | C3H7NO
product | 3,4-dihydroxystyrene | OC=1C=C(C=C)C=CC1O | C8H8O2
